US04954502
1-[2-(1H-indol-3-yl)-ethyl]-4-[3-methoxy-2-pyridinyl]-piperazine
A mixture of 3-(2-bromoethyl)indole (2.00 g), 1-(3-methoxy-2-pyridinyl)piperazine (1.72 g), micropulverized K2CO3 (2.46 g) and tetrabutylammonium hydrogen sulfate (0.15 g), in acetonitrile (50 mL) was heated at reflux under N2 atmosphere for 5 h. The excess acetonitrile was removed under reduced pressure and water (10 mL) was added to the concentrate. The aqueous phase was extracted with CH2Cl2 (3×50 mL). The combined CH2Cl2 extracts were washed with sat. NaCl solution, dried with anhydrous K2CO3, and concentrated under reduced pressure. Silica gel chromatography (CH2Cl2 /MeOH; 96.4) of the residue yielded the free base of the desired Ia product (1.32 g; 44%).

reactant | 3-(2-bromoethyl)indole | 2.00 g | BrCCC1=CNC2=CC=CC=C12 | C10H10BrN
reactant | 1-(3-methoxy-2-pyridinyl)piperazine | 1.72 g | COC=1C(=NC=CC1)N1CCNCC1 | C10H15N3O
reactant | K2CO3 | 2.46 g | C(=O)([O-])[O-].[K+].[K+]
catalyst | tetrabutylammonium hydrogen sulfate | 0.15 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | 1-[2-(1H-indol-3-yl)-ethyl]-4-[3-methoxy-2-pyridinyl]-piperazine | N1C=C(C2=CC=CC=C12)CCN1CCN(CC1)C1=NC=CC=C1OC | C20H24N4O
